US06794397B2
6-Chloro-N-(4-t-butyl-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinic chloride and 4-(t-butyl)-2-nitroaniline as a yellow solid as described in Example 1. 1H NMR (CDCl3): 11.30 (s, 1H), 9.03 (d, J=2.1, 1H), 8.83 (d, J=9.0, 1H), 8.29 (d, J=2.7, 1H), 8.25-8.21 (m, 1H), 7.80-7.76 (m, 1H), 7.52 (d, J=8.4, 1H), 1.38 (s, 9H).

reactant | 6-chloronicotinic chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 4-(t-butyl)-2-nitroaniline | C(C)(C)(C)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C10H14N2O2
product | 6-Chloro-N-(4-t-butyl-2-nitrophenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)C(C)(C)C)[N+](=O)[O-] | C16H16ClN3O3
